US07968581B2
Step 1: 4-[2,5-Dioxo-3-ethyl-4-phenyl-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile
The procedure of Example 1, Step 1 applied to 0.23 g of 4-[2,5-dioxo-4-phenyl-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile with 0.18 mL of iodoethane provides the desired compound.

reactant | 4-[2,5-dioxo-4-phenyl-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile | 0.23 g | O=C1N(C(C(N1)(COCC=C)C1=CC=CC=C1)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F | C21H16F3N3O3
reactant | iodoethane | 0.18 mL | ICC | C2H5I
product | 4-[2,5-Dioxo-3-ethyl-4-phenyl-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile | O=C1N(C(C(N1CC)(COCC=C)C1=CC=CC=C1)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F | C23H20F3N3O3
